US04864022
(4-7) 6-(2-Dimethylaminoethylthio)imidazo[1,2-b]pyridazine
To 20 ml of methanol is dissolved 2.8 g of 2-dimethylaminoethanethiol. To this, 20 ml of 2M solution of sodium methoxide in methanol and 3 g of 6-chloroimidazo[1,2-b]pyridazine are added successively and the mixture is heated in a sealed tube for 4 hours at 150° C. After cooling, the solvent is evaporated and the residue is treated with water. The mixture is then extracted with methylene chloride. The organic layer is separated, washed with saturated aqueous solution of sodium chloride and dried over MgSO4. Evaporation of the solvent gives 2.5 g of the title compound as pale yellow crystals.

reactant | 2-dimethylaminoethanethiol | 2.8 g | CN(CCS)C | C4H11NS
reactant | sodium methoxide | C[O-].[Na+]
reactant | 6-chloroimidazo[1,2-b]pyridazine | 3 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 6-(2-Dimethylaminoethylthio)imidazo[1,2-b]pyridazine | 2.5 g | CN(CCSC=1C=CC=2N(N1)C=CN2)C | C10H14N4S
